US06022529
Synthesis of (±)-1-hydroxy-1-(3-carboxymethoxyphenyl)-2-phenyl-2-(1,3-dithian-2-yl)-ethane (FIG. 1, Compound 4)
A solution of anhydrous lithium iodide (2.68 g, 20 mmol, Aldrich) in 25 mL dry pyridine was brought to reflux under a nitrogen atmosphere and treated with (±)-1-hydroxy-1-(3-carbomethoxymethoxyphenyl)-2-phenyl-2-(1,3-dithian-2-yl)-ethane (1.95 g, 5 mmol). The reaction was refluxed for 6 h, then allowed to cool to room temperature under a stream of nitrogen. The solution was poured into 1 N HCl (300 mL), and extracted with ethyl acetate (3×50 mL). The combined ethyl acetate layers were extracted with 5% sodium bicarbonate (4×50 mL). The aqueous phase was acidified to pH 2, and extracted with ethyl acetate (3×50 mL). The organic phase was dried with Mg2SO4, filtered through activated charcoal, evaporated, and triturated with hexanes to yield a white solid. Yield: 1.71 g (91%). mp 99-101° C. IR: 3448 (br), 1735, 1595, 1462, 1232, 719 cm-1. 1H NMR (CDCl3, TMS) d 7.656 (dd, J=8.00, 1.71 Hz, 2 H), 7.299-7.254 (m, 3 H), 7.036 (t, J=7.98 Hz, 1 H), 6.794-6.773 (m, 1 H), 6.573 (d, J=7.55 Hz, 1 H), 6.251 (s, 1 H), 4.955 (s, 1 H), 4.357 (s, 2 H), 2.728-2.620 (m, 4 H), 1.914-1.868 (m, 2 H). 13C NMR (CDCl3, TMS) d 173.47, 156.32, 139.01, 137.40, 130.50, 128.12, 128.07, 127.56, 122.02, 115.43, 113.66, 80.56, 66.13, 64.73, 27.26, 26.96, 24.67. Anal. Calcd. for C19H20O4S2 : C, 60.62; H, 5.35. Found: C, 60.36; H, 5.21.

reactant | lithium iodide | 20 mmol, 2.68 g | [I-].[Li+]
reactant | (±)-1-hydroxy-1-(3-carbomethoxymethoxyphenyl)-2-phenyl-2-(1,3-dithian-2-yl)-ethane | 5 mmol, 1.95 g | OC(C(C1SCCCS1)C1=CC=CC=C1)C1=CC(=CC=C1)OCC(=O)OC | C21H24O4S2
reactant | HCl | 1 N, 300 mL | Cl | ClH
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | (±)-1-hydroxy-1-(3-carboxymethoxyphenyl)-2-phenyl-2-(1,3-dithian-2-yl)-ethane | OC(C(C1SCCCS1)C1=CC=CC=C1)C1=CC(=CC=C1)OCC(=O)O | C20H22O4S2
